US04275066
(A) 2-Amino-isoquinoline-1(2H)-one
A solution of isocoumarin (26 g, 0.16 mol) in 95% ethanol (2000 ml) was treated with 25% hydrazine hydrate in water (64 ml, 0.32 mol) and stirred at room temperature for one hour. The precipitate of 2-amino-3,4-dihydro-3-hydroxy-1H(2H)-isoquinolinone was dissolved and dehydrated by addition of 10% hydrochloric acid (150 ml) at room temperature. After three hours, the mixture was neutralized with sodium carbonate and the ethanol recovered by distillation in vacuo. The title compound was isolated by filtration and extraction with chloroform to give 27.92 g (98%) of the product of the title. M.p. 103°-4° C.

reactant | isocoumarin | 0.16 mol, 26 g | C1(=O)OC=CC2=CC=CC=C12 | C9H6O2
reactant | hydrazine hydrate | O.NN
reactant | water | 0.32 mol, 64 ml | O | H2O
reactant | 2-amino-3,4-dihydro-3-hydroxy-1H(2H)-isoquinolinone | NN1C(C2=CC=CC=C2CC1O)=O | C9H10N2O2
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2000 ml | C(C)O | C2H6O
product | 2-Amino-isoquinoline-1(2H)-one | NN1C(C2=CC=CC=C2C=C1)=O | C9H8N2O
